US05668128
In substantially the same manner as Working Example 2, 1-naphthalenemethylamine (4.32 g) was condensed with Boc-L-phenylalanine (6.63 g) to give N-(Boc-L-phenylalanyl)-1-naphthalenemethylamine (7.92 g) (yield 91%). The Boc group of the product was deprotected in substantially the same manner as Working Example 91 to give N-(L-phenylalanyl)-1-naphthalenemethylamine hydrochloride (4.24 g) (yield 64%). The compound thus obtained (0.75 g) was condensed, in substantially the same manner as Working Example 8, with monoethyl ester of (2S,3S)-N-benzylaziridine-2,3-dicarboxylic acid (0.50 g) obtained in Working Example 95 to give the above-titled compound (Compound 99; 0.79 g) as white crystals (yield 74%).

reactant | 1-naphthalenemethylamine | 4.32 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | Boc-L-phenylalanine | 6.63 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | N-(Boc-L-phenylalanyl)-1-naphthalenemethylamine | 7.92 g, yield 91% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)NCC1=CC=CC2=CC=CC=C12 | C25H28N2O3
